US06596772B1
Using procedure as in example 10, a reaction of methyl 3,5-dihydroxybenzoate (50 mg, 0.297 mmol), NaH (26 mg, 2.2 equiv.) and 2-nitro-4-(trifluoromethylsulfonyl)chlorobenzene (172 mg, 0.595 mmol) afforded 3,5-bis-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-benzoic acid methyl ester.

reactant | methyl 3,5-dihydroxybenzoate | 0.297 mmol, 50 mg | OC=1C=C(C(=O)OC)C=C(C1)O | C8H8O4
reactant | NaH | 26 mg, 2.2 equiv. | [H-].[Na+]
reactant | 2-nitro-4-(trifluoromethylsulfonyl)chlorobenzene | 0.595 mmol, 172 mg | [N+](=O)([O-])C1=C(C=CC(=C1)S(=O)(=O)C(F)(F)F)Cl | C7H3ClF3NO4S
product | 3,5-bis-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)OC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-])OC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-])=O | C22H12F6N2O12S2
